US08609849B1
3-(2-Chloro-phenyl)-3-hydroxypropionitrile.
2-(2-chloro-phenyl)-oxirane (440 mg, 2.85 mmol) was dissolved in ethanol (3 mL) and treated with potassium cyanide in water (3 mL) and hydrogen chloride (4 M in 1,4-dioxane, 0.71 mL) subsequently. The mixture was stirred at 50° C. for 8 hr and room temperature for overnight. Saturated sodium hydrogen carbonate was added and the mixture was concentrated. The residue was extracted with ethyl acetate. The organic layer was concentrated and purified by column chromatography (40 g silica gel cartridge) eluting with ethyl acetate/hexane (0%-30%) to give the product as a colorless oil (330 mg, 64%). 1H NMR (CDCl3) δ 7.70-7.60 (m, 1H), 7.40-7.20 (m, 2H), 5.50-5.40 (m, 1H), 2.98-2.85 (m, 1H), 2.85-2.80 (m, 1H), 2.78-2.65 (m, 1H).

reactant | 2-(2-chloro-phenyl)-oxirane | 2.85 mmol, 440 mg | ClC1=C(C=CC=C1)C1OC1 | C8H7ClO
reactant | potassium cyanide | [C-]#N.[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | water | 3 mL | O | H2O
solvent | hydrogen chloride | 4 M, 0.71 mL | Cl | ClH
product | 3-(2-Chloro-phenyl)-3-hydroxypropionitrile | 330 mg, 64% | ClC1=C(C=CC=C1)C(CC#N)O | C9H8ClNO
